US06498169B1
Synthesis of 4-Chloro-3,5-dimethoxyphenylboronic Acid
Under an argon atomsphere, to dry THF (2 mL) stirred in a dry ice-methanol bath was gradually added a 1.57 M solution of n-butyllithium in hexane (0.8 mL), followed by the dropwise addition of a solution of 1-bromo-4-chloro-3,5-dimethoxybenzene (160 mg) in dry THF (2 mL). After the mixture was stirred for 20 minutes in the dry ice-methanol bath, triisopropyl borate (0.18 mL) was added and the mixture was additionally stirred for 20 minutes. The reaction mixture was then stirred at room temperature for 1 hour and pH of the mixture was adjusted at 3 using 4 M hydrochloric acid. The mixture was stirred at 0° C. for 1 hour and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was recrystallized from ethyl acetate-hexane giving the title compound as white powder.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-bromo-4-chloro-3,5-dimethoxybenzene | 160 mg | BrC1=CC(=C(C(=C1)OC)Cl)OC | C8H8BrClO2
reactant | dry ice methanol | C(=O)=O.CO
reactant | triisopropyl borate | 0.18 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | hexane | 0.8 mL | CCCCCC | C6H14
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-Chloro-3,5-dimethoxyphenylboronic Acid | ClC1=C(C=C(C=C1OC)B(O)O)OC | C8H10BClO4
